US06353117B1
In a flask with an inert atmosphere (E)-1,1,1-trifluoro-4-methyl-4-(4-methylphenyl)-3-butene-2-one (1.75 g, 8.2 mmoles), 4-(aminosulphonyl)phenylhydrazine chlorohydrate (2 g, 9 mmoles) and piperidine (0.85 g, 10 mmoles) are added, dissolved in 100 ml of ethanol, and heated under reflux for 5.5 hours. The mixture is cooled, the solvent eliminated with a rotovapor, water added to the residue and the solution extracted with AcOEt. The organic phase is washed with water, dried over anhydrous sodium sulphate and evaporated to dryness. The crude product is purified using column chromatography through silica gel under pressure, eluting with AcOEt-petrol ether (4:6) obtaining 1-(4-aminosulphonylphenyl)-4,5-dihydro-5-phenyl-5-methyl-3-trifluoromethyl-1H-pyrazole in the form of a white solid (1.46 g, yield: 47%) with a

reactant | (E)-1,1,1-trifluoro-4-methyl-4-(4-methylphenyl)-3-butene-2-one | 8.2 mmoles, 1.75 g | FC(C(\C=C(\C1=CC=C(C=C1)C)/C)=O)(F)F | C12H11F3O
reactant | 4-(aminosulphonyl)phenylhydrazine | NS(=O)(=O)C1=CC=C(C=C1)NN | C6H9N3O2S
reactant | piperidine | 10 mmoles, 0.85 g | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(4-aminosulphonylphenyl)-4,5-dihydro-5-phenyl-5-methyl-3-trifluoromethyl-1H-pyrazole | NS(=O)(=O)C1=CC=C(C=C1)N1N=C(CC1(C)C1=CC=CC=C1)C(F)(F)F | C17H16F3N3O2S
